US03997584
N-Benzyloxycarbonyl-2-n-butoxyglycine
A solution of 0.002 mol. of N-benzyloxycarbonyl-2-n-butoxyglycine n-butyl ester is stirred with 10 ml. of methanol and 10 ml. of 5% aqueous sodium bicarbonatesodium carbonate solution for 5 hours at 25°. The reaction mixture is then diluted with water and shaken with ethyl acetate. The layers are separated and the aqueous layer is acidified to pH 2.0 and extracted with ethyl acetate containing 10% ethanol. The extracts are dried (Na2SO4) and concentrated in vacuo to give the title compound.

reactant | N-benzyloxycarbonyl-2-n-butoxyglycine n-butyl ester | C(CCC)OC(C(NC(=O)OCC1=CC=CC=C1)OCCCC)=O | C18H27NO5
reactant | methanol | CO | CH4O
reactant | sodium | [Na] | Na
reactant | carbonate | C([O-])([O-])=O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzyloxycarbonyl-2-n-butoxyglycine | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)OCCCC | C14H19NO5
